US07098226B2
(R)-1-[2-(4-Pyridyl)ethyl]-2-pyrrolidinecarboxylic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide hydrochloride (Compound No. 19-1)
Next, (R)-2-pyrrolidinecarboxylic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide hydrochloride (1.4 g, 3.7 mmol) was dissolved in anhydrous N,N-dimethylformamide (40 ml), potassium carbonate (2.6 g, 19 mmol), methyl iodide (1.7 g, 11 mmol) and 4-(2-chloroethyl)pyridine hydrochloride (0.70 g, 3.7 mmol) were added to the solution, and the mixture was stirred at an external temperature of 80° C. overnight. A 2 N aqueous sodium hydroxide solution (70 ml) and diethyl ether (70 ml) were added to the reaction mixture, the reaction mixture was distributed, and the diethyl ether layer was washed with water (70 ml) and a saturated aqueous sodium chloride solution (70 ml) successively and dried over anhydrous magnesium sulfate. The diethyl ether layer was concentrated under reduced pressure, and the concentrate was purified by silica gel column chromatography to give 0.80 g (47%) of the titled compound as an oily matter.

reactant | (R)-2-pyrrolidinecarboxylic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide hydrochloride | 3.7 mmol, 1.4 g | Cl.C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)[C@@H]2NCCC2)CCCCC
reactant | potassium carbonate | 19 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 11 mmol, 1.7 g | CI | CH3I
reactant | 4-(2-chloroethyl)pyridine hydrochloride | 3.7 mmol, 0.70 g | Cl.ClCCC1=CC=NC=C1
reactant | sodium hydroxide | 2 N, 70 ml | [OH-].[Na+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
product | (R)-1-[2-(4-Pyridyl)ethyl]-2-pyrrolidinecarboxylic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide hydrochloride | 0.80 g, 47% | Cl.C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)[C@@H]2N(CCC2)CCC2=CC=NC=C2)CCCCC | InChI=1S/C29H45N3O.ClH/c1-2-3-4-13-32(16-10-29-20-24-17-25(21-29)19-26(18-24)22-29)28(33)27-6-5-14-31(27)15-9-23-7-11-30-12-8-23;/h7-8,11-12,24-27H,2-6,9-10,13-22H2,1H3;1H/t24?,25?,26?,27-,29?;/m1./s1
